US08895582B2
To a solution of (S)-tert-butyl 1-amino-3-(benzyloxy)propan-2-yl(methyl)carbamate (5.1 mmol) in MeOH (50 mL) were added 2,2-difluoroethyl trifluoromethanesulfonate (1.09 g, 5.1 mmol) and DIEA (1.68 mL, 10.2 mmol). The resulting mixture was stirred at RT for 1 h followed by addition of Boc2O (1.67 g, 7.65 mmol). The mixture was concentrated and the residue was purified on silica gel column using a mixture of EtOAc and hexanes to give [(S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (2.42 g, quant.). LRMS (M+Na+) m/z 481.2.

reactant | (S)-tert-butyl 1-amino-3-(benzyloxy)propan-2-yl(methyl)carbamate | 5.1 mmol | NC[C@@H](COCC1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C16H26N2O3
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 5.1 mmol, 1.09 g | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | DIEA | 10.2 mmol, 1.68 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 7.65 mmol, 1.67 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 50 mL | CO | CH4O
product | [(S)-3-Benzyloxy-2-(tert-butoxycarbonyl-methyl-amino)-propyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 2.42 g | C(C)(C)(C)OC(N(CC(F)F)C[C@@H](COCC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C23H36F2N2O5
